* /Users/sfujita/git-repo/EXCISS/contributors/shintaro/pwm_rc_filter/pwm_rc_filter.asc
V1 N001 0 PULSE(0 3.3 0.01 0.0 0.0 0.001 0.002 50)
C1 N003 0 50µ Rser=0 Lser=0 mfg=" ---" pn=" ---" type=" ---"
R1 N003 N001 220
R2 N002 N003 220
C2 N002 0 10µ
.tran 0 100mS 0
.backanno
.end
